US08937090B2
4) N-cyclohexylcarbonyl-β-alanine (N-hexahydrobenzoyl-β-alanine)
Ten grams of β-alanine and 9 g of sodium hydroxide were dissolved in 100 mL of purified water, and 14.9 g of cyclohexanecarbonyl chloride were added dropwise under freezing conditions. After stirring for five hours, hydrochloric acid was added and the pH was adjusted to 2 or less. After extraction with 500 mL of ethyl acetate, the product was desiccated over magnesium sulfate, filtered, and concentrated under reduced pressure. The resulting residue was recrystallized with aqueous ethanol, and 17.2 g of the desired product was obtained (yield of 85%).

reactant | β-alanine | Ten grams | NCCC(=O)O | C3H7NO2
reactant | sodium hydroxide | 9 g | [OH-].[Na+]
reactant | cyclohexanecarbonyl chloride | 14.9 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | hydrochloric acid | Cl | ClH
solvent | water | 100 mL | O | H2O
product | N-cyclohexylcarbonyl-β-alanine | 17.2 g, yield of 85% | C1(CCCCC1)C(=O)NCCC(=O)O | C10H17NO3
